US08304419B2
N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]phenyl}methyl)-5-nitro-1H-indole-2-carboxamide
N-({4-Chloro-3-[(3-chloro-5-cyanophenyl)oxy]phenyl}methyl)-5-nitro-1H-indole-2-carboxamide was prepared in a similar manner as described herein from 3-{[5-(aminomethyl)-2-chlorophenyl]oxy}-5-chlorobenzonitrile (0.025 g, 0.085 mmol), 5-nitro-1H-indole-2-carboxylic acid, (0.025 g, 0.13 mmol), HATU (0.05 g, 0.13 mmol), DIPEA (0.025 mL, 0.13 mmol) and DMF (1 mL). The crude material was purified by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA). The desired fractions were neutralized and extracted with EtOAc. The organic extracts were combined, dried over Na2SO4, filtered and evaporated to afford the title compound (0.015 g, 36%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.36 (s, 1H), 9.34 (t, 1H), 8.67 (d, 1H), 8.04 (dd, 1H), 7.76 (t, 1H), 7.60 (d, 1H), 7.55 (d, 1H), 7.43 (dd, 1H), 7.41 (s, 1H), 7.35 (t, 1H), 7.28 (dd, 1H), 7.25 (d, 1H), 4.50 (d, 2H). MS: m/z 481.0 (M+1).

reactant | 3-{[5-(aminomethyl)-2-chlorophenyl]oxy}-5-chlorobenzonitrile | 0.085 mmol, 0.025 g | NCC=1C=CC(=C(C1)OC=1C=C(C#N)C=C(C1)Cl)Cl | C14H10Cl2N2O
reactant | 5-nitro-1H-indole-2-carboxylic acid | 0.13 mmol, 0.025 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | HATU | 0.13 mmol, 0.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.13 mmol, 0.025 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]phenyl}methyl)-5-nitro-1H-indole-2-carboxamide | 0.015 g, 36% | ClC1=C(C=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-])OC1=CC(=CC(=C1)C#N)Cl | C23H14Cl2N4O4
